US08871361B2
Synthesis of 2-(3-methoxy-5-bromophenyl)-4,4,5,5,-tetramethyl-1,3,2-dioxaborolane
To a sealable 250 mL thick wall flask, added 1-bromo-3-methoxybenzene (20 g, 105 mmol), 4,4′-di-tert-butyl-2,2′-bipyridine (0.281 g, 1.048 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (19.96 g, 79 mmol), [Ir(COD)OMe]2 (0.347 g, 0.524 mmol) (COD is cyclooctadiene), and 200 mL THF and heated up to 80° C. for 19 hrs. After reaction cooled down with ice and slowly open the seal. The solvent was evaporated and the material was used in the next reaction directly. The product was confirmed by GC.

reactant | 1-bromo-3-methoxybenzene | 105 mmol, 20 g | BrC1=CC(=CC=C1)OC | C7H7BrO
reactant | 4,4′-di-tert-butyl-2,2′-bipyridine | 1.048 mmol, 0.281 g | C(C)(C)(C)C1=CC(=NC=C1)C1=NC=CC(=C1)C(C)(C)C | C18H24N2
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 79 mmol, 19.96 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 2-(3-methoxy-5-bromophenyl)-4,4,5,5,-tetramethyl-1,3,2-dioxaborolane | COC=1C=C(C=C(C1)Br)B1OC(C(O1)(C)C)(C)C | C13H18BBrO3
